* C:\Users\German\Documents\equipo_medicion_ensayo_celdas\Simulaciones\modulo_carga_descarga_ac_imp.asc
* Generated by LTspice 24.1.9 for Windows.
Rs N026 VGND 100m
Q1 N006 N007 N012 0 2N2222
Q2 N012 N006 C1 0 TIP36C
Q3 N027 B N012 0 2N2907
Q4 N012 N027 0 0 TIP35C
VBAT N028 N026 4.1
R4 N008 VGND 10k
R10 N003 N008 91K
R3 C1 N007 1k
X§U1 N008 N011 C1 0 N009 LMX24_LM2902
C1 N009 N011 1n
R11 N026 N011 9.1k
D3 B N016 1N4148
X§U3 N014 N017 C1 0 N016 LMX24_LM2902
C2 N016 N017 1n
V§DAC3 N021 0 2.1
R13 N017 N026 100K
R12 N012 N017 100K
D4 B N009 1N4148
V8 C1 0 12
Q8 N013 N015 VGND 0 2N2222
Q9 VGND N013 C1 0 TIP36C
Q10 N030 N025 VGND 0 2N2907
Q11 VGND N030 0 0 TIP35C
R15 C1 N015 1K
R2 N012 N028 10m
X§U2 N002 N004 C1 0 N003 LMX24_LM2902
R1 0 N004 100k
R5 N002 N001 150k
R6 N002 N005 150k
V§DAC1 N005 0 PULSE(0 3 1m 1n 1n 99m 100m 30)
R7 N003 N004 200k
X§U4 N024 VGND C1 0 N025 LMX24_LM2902
R8 C1 N024 10K
R9 N024 0 2k
V§AD9833 N001 0 SINE(0 0 1k 0 0 0 80)
R23 N002 N010 150k
X§U7 N022 N023 C1 0 N014 LMX24_LM2902
R24 0 N023 100k
R25 N022 N021 150K
R26 N022 N026 150K
R27 N014 N023 200k
R28 N022 0 150K
R14 C1 N021 100k
R18 N021 0 100K
Q5 N015 N020 N025 0 2N2222
R19 N015 N020 2k
R21 N020 N025 8k
Q6 N007 N019 B 0 2N2222
R17 N007 N019 2k
R22 N019 B 8k
R29 C1 N010 84k
R30 N010 0 16k
V§DAC2 N010 0 PULSE(1.97 1.97 1m 1n 1n 99m 100m 30)
R31 N005 0 10k
R32 N001 0 10k
.model D D
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50m 0 1000
* .ac dec 1000 0.01 100Meg
* .dc Vref 0 0.3 10m
.MODEL tip35c npn (
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91656 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854
+ISC=3.9e-13 NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563125 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.421306 MJE=0.693953
+TF=1e-08 XTF=1.35777 VTF=1.00063 ITF=0.9994
+CJC=5e-10 VJC=0.400277 MJC=0.409924 XCJC=0.803124
+FC=0.720291 CJS=0 VJS=0.75 MJS=0.5
+TR=4.99888e-07 PTF=0 KF=0 AF=1)
.MODEL tip36c pnp(
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91657 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854 ISC=3.9e-13
+NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563123 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.4 MJE=0.735975
+TF=1e-08 XTF=1.35769 VTF=1 ITF=0.99952
+CJC=5e-10 VJC=0.400257 MJC=0.409987 XCJC=0.80312
+FC=0.724857 CJS=0 VJS=0.75 MJS=0.5
+TR=2.03153e-07 PTF=0 KF=0 AF=1)
.inc OPAx188.lib
.model D4V1 D(Ron=0 Roff=1Meg Vfwd=0.7 Vrev=4.1)
.inc lmx24_lm2902.lib
* FUENTE PARTIDA
* MÓDULO CARGA/DESCARGA/ACIR
.backanno
.end
