* C:\Users\German\Documents\equipo_medicion_ensayo_celdas\Simulaciones\modulo_carga_descarga_ac_imp.asc
* Generated by LTspice 24.1.9 for Windows.
Rs V_IN2 VGND 100m
Q1 N004 N005 V_IN1 0 2N2222
Q2 V_IN1 N004 C1 0 TIP36C
Q3 N024 B V_IN1 0 2N2907
Q4 V_IN1 N024 0 0 TIP35C
VBAT N025 V_IN2 4.1
R4 N006 VGND 10k
R10 N003 N006 91K
R3 C1 N005 1k
X§U1 N006 N008 C1 0 N007 LMX24_LM2902
C1 N007 N008 1n
R11 V_IN2 N008 9.1k
D3 B N012 1N4148
X§U3 N011 N013 C1 0 N012 LMX24_LM2902
C2 N012 N013 1n
V§DAC3 N018 0 2.5
R13 N013 V_IN2 100K
R12 V_IN1 N013 100K
D4 B N007 1N4148
V8 C1 0 12
Q8 N009 N010 VGND 0 2N2222
Q9 VGND N009 C1 0 TIP36C
Q10 N027 N022 VGND 0 2N2907
Q11 VGND N027 0 0 TIP35C
R15 C1 N010 1K
R2 V_IN1 N025 10m
V§DAC1 N003 0 PULSE(1.98 3.98 20m 10u 10u 60m 100m 50)
X§U4 N021 VGND C1 0 N022 LMX24_LM2902
R8 C1 N021 10k
R9 N021 0 2k
X§U7 N019 N020 C1 0 N011 LMX24_LM2902
R24 0 N020 100k
R25 N019 N018 150K
R26 N019 V_IN2 150K
R27 N011 N020 200k
R28 N019 0 150K
R14 C1 N018 100k
R18 N018 0 100K
Q5 N010 N017 N022 0 2N2222
R19 N010 N017 4k
R21 N017 N022 6k
Q6 N005 N016 B 0 2N2222
R17 N005 N016 4k
R22 N016 B 6k
R29 C1 N003 100k
R30 N003 0 20k
X§U2 N001 N002 C1 0 ADC_ACIR LMX24_LM2902
C3 N001 ADC_VBAT 1µ
R1 N001 0 1Meg
R5 N002 0 1k
R6 ADC_ACIR N002 100k
X§U5 N023 N015 C1 0 ADC_VBAT LMX24_LM2902
R7 ADC_VBAT N015 100k
R23 N015 V_IN2 100k
R33 N023 0 100k
R34 N023 V_IN1 100k
X§U6 N029 N028 C1 0 ADC_IBAT LMX24_LM2902
R31 ADC_IBAT N028 100k
R32 N028 VGND 10k
R35 N029 N030 100k
R36 N029 V_IN2 10k
V1 N030 0 1
Rs1 N045 VGND 100m
Q7 N032 N033 N037 0 2N2222
Q12 N037 N032 C1 0 TIP36C
Q13 N046 B N037 0 2N2907
Q14 N037 N046 0 0 TIP35C
VBAT1 N047 N045 4.1
R37 N034 VGND 10k
R38 N031 N034 91K
R39 C1 N033 1k
X§U8 N034 N036 C1 0 N035 LMX24_LM2902
C4 N035 N036 1n
R40 N045 N036 9.1k
D1 B N039 1N4148
X§U9 N038 N040 C1 0 N039 LMX24_LM2902
C5 N039 N040 1n
V§DAC2 N042 0 2.5
R41 N040 N045 100K
R42 N037 N040 100K
D2 B N035 1N4148
R43 N037 N047 10m
V§DAC4 N031 0 PULSE(1.98 3.98 20m 10u 10u 60m 100m 50)
X§U10 N043 N044 C1 0 N038 LMX24_LM2902
R44 0 N044 100k
R45 N043 N042 150K
R46 N043 N045 150K
R47 N038 N044 200k
R48 N043 0 150K
R49 C1 N042 100k
R50 N042 0 100K
Q15 N033 N041 B 0 2N2222
R51 N033 N041 4k
R52 N041 B 6k
R53 C1 N031 100k
R54 N031 0 20k
.model D D
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50m 0 1000
* .ac dec 1000 0.01 100Meg
* .dc Vref 0 0.3 10m
.MODEL tip35c npn (
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91656 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854
+ISC=3.9e-13 NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563125 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.421306 MJE=0.693953
+TF=1e-08 XTF=1.35777 VTF=1.00063 ITF=0.9994
+CJC=5e-10 VJC=0.400277 MJC=0.409924 XCJC=0.803124
+FC=0.720291 CJS=0 VJS=0.75 MJS=0.5
+TR=4.99888e-07 PTF=0 KF=0 AF=1)
.MODEL tip36c pnp(
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91657 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854 ISC=3.9e-13
+NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563123 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.4 MJE=0.735975
+TF=1e-08 XTF=1.35769 VTF=1 ITF=0.99952
+CJC=5e-10 VJC=0.400257 MJC=0.409987 XCJC=0.80312
+FC=0.724857 CJS=0 VJS=0.75 MJS=0.5
+TR=2.03153e-07 PTF=0 KF=0 AF=1)
.inc OPAx188.lib
.model D4V1 D(Ron=0 Roff=1Meg Vfwd=0.7 Vrev=4.1)
.inc lmx24_lm2902.lib
* FUENTE PARTIDA
* MÓDULO CARGA/DESCARGA/ACIR
* SINE(1.98 100m 1k 0 0 0 80)
* FRONTEND ADCS
* PULSE(1.98 3.98 20m 10u 10u 60m 100m 50)
* MÓDULO CARGA/DESCARGA/ACIR
* SINE(1.98 100m 1k 0 0 0 80)
* PULSE(1.98 3.98 20m 10u 10u 60m 100m 50)
.backanno
.end
