* C:\Users\German\Documents\equipo_medicion_ensayo_celdas\Simulaciones\modulo_carga_descarga_ac_imp.asc
* Generated by LTspice 24.1.9 for Windows.
Rs V_IN2 VGND 100m
Q1 N005 N006 V_IN1 0 2N2222
Q2 V_IN1 N005 C1 0 TIP36C
Q3 N026 B V_IN1 0 2N2907
Q4 V_IN1 N026 0 0 TIP35C
VBAT N027 V_IN2 4.1
R4 N007 VGND 10k
R10 N004 N007 91K
R3 C1 N006 1k
X§U1 N007 N009 C1 0 N008 LMX24_LM2902
C1 N008 N009 1n
R11 V_IN2 N009 9.1k
D3 B N013 1N4148
X§U3 N012 N015 C1 0 N013 LMX24_LM2902
C2 N013 N015 1n
V§DAC3 N020 0 2.5
R13 N015 V_IN2 100K
R12 V_IN1 N015 100K
D4 B N008 1N4148
V8 C1 0 12
Q8 N010 N011 VGND 0 2N2222
Q9 VGND N010 C1 0 TIP36C
Q10 N029 N025 VGND 0 2N2907
Q11 VGND N029 0 0 TIP35C
R2 V_IN1 N027 10m
V§DAC1 N004 0 PULSE(0.98 3.98 20m 10u 10u 60m 100m 50)
X§U4 N023 VGND C1 0 N011 LMX24_LM2902
R9 N023 0 10k
X§U7 N021 N022 C1 0 N012 LMX24_LM2902
R24 0 N022 100k
R25 N021 N020 150K
R26 N021 V_IN2 150K
R27 N012 N022 200k
R28 N021 0 150K
R14 C1 N020 100k
R18 N020 0 100K
Q5 N011 N019 N025 0 2N2222
R19 N011 N019 4k
R21 N019 N025 6k
Q6 N006 N018 B 0 2N2222
R17 N006 N018 4k
R22 N018 B 6k
X§U2 N002 N003 C1 0 ADC_ACIR LMX24_LM2902
C3 N002 ADC_VBAT 1µ
R1 N002 0 1k
R5 N003 0 1k
R6 ADC_ACIR N003 100k
X§U5 N024 N017 C1 0 ADC_VBAT LMX24_LM2902
R7 ADC_VBAT N017 100k
R23 N017 V_IN2 100k
R33 N024 0 100k
R34 N024 V_IN1 100k
X§U6 N031 N030 C1 0 ADC_IBAT LMX24_LM2902
R31 ADC_IBAT N030 100k
R32 N030 VGND 10k
R35 N031 N032 100k
R36 N031 V_IN2 10k
R37 N025 0 100
R15 C1 N011 1k
D1 0 N014 D_ZENER_2V4
R8 N014 N023 14K
R38 N004 0 10k
D2 0 N001 D_ZENER_2V4
R39 N001 N004 14K
R29 C1 N014 10k
R30 C1 N001 10K
R42 C1 N032 120k
R43 N032 0 1k
.model D D
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\German\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50m 0 1000
* .ac dec 1000 0.01 100Meg
* .dc Vref 0 0.3 10m
.MODEL tip35c npn (
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91656 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854
+ISC=3.9e-13 NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563125 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.421306 MJE=0.693953
+TF=1e-08 XTF=1.35777 VTF=1.00063 ITF=0.9994
+CJC=5e-10 VJC=0.400277 MJC=0.409924 XCJC=0.803124
+FC=0.720291 CJS=0 VJS=0.75 MJS=0.5
+TR=4.99888e-07 PTF=0 KF=0 AF=1)
.MODEL tip36c pnp(
+IS=7.88586e-11 BF=256.257 NF=0.951481 VAF=25.9112
+IKF=6.91657 ISE=6.4e-12 NE=3.4 BR=4.49993
+NR=1.08286 VAR=4.40924 IKR=3.69854 ISC=3.9e-13
+NC=3.99 RB=20.929 IRB=0.1 RBM=0.135255
+RE=0.000998231 RC=0.0563123 XTB=0.1 XTI=1
+EG=1.10826 CJE=1e-07 VJE=0.4 MJE=0.735975
+TF=1e-08 XTF=1.35769 VTF=1 ITF=0.99952
+CJC=5e-10 VJC=0.400257 MJC=0.409987 XCJC=0.80312
+FC=0.724857 CJS=0 VJS=0.75 MJS=0.5
+TR=2.03153e-07 PTF=0 KF=0 AF=1)
.inc OPAx188.lib
.model D_ZENER_2V4 D (
+ IS=1e-9
+ N=1.5
+ RS=2
+ BV=2.4
+ IBV=1m
+ CJO=100p
+ M=0.33)
.inc lmx24_lm2902.lib
* FUENTE PARTIDA
* MÓDULO CARGA/DESCARGA/ACIR
* SINE(0.98 100m 1k 0 0 0 80)
* FRONTEND ADCS
* PULSE(0.98 3.98 20m 10u 10u 60m 100m 50)
.backanno
.end
